US05686424
Following the procedure described in Example 154, treatment of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-aminophenyl)ethylamide (100 mg, 0.23 mmol) with allyl chloroformate (0.036 mL, 0.34 mmol) provided 90 mg of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-(N-carboalloxy)aminophenyl)ethylamide as a foam.

reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-aminophenyl)ethylamide | 0.23 mmol, 100 mg | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=C(C=C1)N)NC([C@H]1NCCC1)=O)=O | C24H31N3O5
reactant | allyl chloroformate | 0.34 mmol, 0.036 mL | ClC(=O)OCC=C | C4H5ClO2
product | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-(N-carboalloxy)aminophenyl)ethylamide | 90 mg | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=C(C=C1)NC(=O)OCC=C)NC([C@H]1NCCC1)=O)=O | C28H35N3O7
